US05110914
Synthesis of 5-ethyl-5-(3-azidopropyl)barbituric acid
A solution of 30 g of 5-ethyl-5-(3-bromopropyl) barbituric acid and 13 g of sodium azide in 350 ml of acetone was added to 240 ml of water and refluxed for approximately 18 hours. Thereafter, the solution was cooled on ice, filtered, air dried, and dissolved in a minimal amount of hot 95% ethanol. Crystals appeared after cooling and were filtered and air-dried. The melting point was 182°-184° C.

reactant | 5-ethyl-5-(3-bromopropyl) barbituric acid | 30 g | C(C)C1(C(NC(NC1=O)=O)=O)CCCBr | C9H13BrN2O3
reactant | sodium azide | 13 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 240 ml | O | H2O
solvent | acetone | 350 ml | CC(=O)C | C3H6O
product | 5-ethyl-5-(3-azidopropyl)barbituric acid | C(C)C1(C(NC(NC1=O)=O)=O)CCCN=[N+]=[N-] | C9H13N5O3
